US05811548
20 mg of N,N-dimethylaminopyridine and a solution of 455 mg (2.2 mmol) of N,N-dicyclohexylcarbodiimide in 5 ml of methylene chloride were added while cooling with ice to a solution of 801 mg (2.0 mmol) of (6-tert-butoxycarbonyl-aminomethyl-10-methyl-phenothiazin-4-yl)-acetic acid and 324.5 mg (3.0 mmol) of benzyl alcohol in methylene chloride. The reaction mixture was stirred at 0° for 15 minutes, brought slowly to room temperature, stirred for 2 hours and then poured into ice and saturated sodium hydrogen carbonate solution, whereupon the mixture was extracted three times with methylene chloride. The combined organic phases were dried over magnesium sulphate and evaporated. The residue was chromatographed on 100 g of silica gel with ethyl acetate/hexane (3:2), whereupon 730 mg (74.4%) of benzyl (6-tert.-butoxycarbonyl-aminomethyl-10-methyl-phenothiazin-4-yl)-acetate were obtained as an amorphous solid. MS: 490 (M+ 78), 434(100), 416(22), 390(20), 91(60).

reactant | (6-tert-butoxycarbonyl-aminomethyl-10-methyl-phenothiazin-4-yl)-acetic acid | 2.0 mmol, 801 mg | C(C)(C)(C)OC(=O)C1=C2SC=3C(=CC=C(C3N(C2=CC=C1)C)CN)CC(=O)O | C21H24N2O4S
reactant | benzyl alcohol | 3.0 mmol, 324.5 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | benzyl (6-tert.-butoxycarbonyl-aminomethyl-10-methyl-phenothiazin-4-yl)-acetate | 730 mg, 74.4% | C(C)(C)(C)OC(=O)C1=C2SC=3C(=CC=C(C3N(C2=CC=C1)C)CN)CC(=O)OCC1=CC=CC=C1 | C28H30N2O4S
